US08865911B2
3-Chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile
A suspension of 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (665 mg, 2.62 mmol), 3-chloro-5-iodobenzonitrile (345 mg, 1.31 mmol), and potassium acetate (386 mg, 3.93 mmol) in dioxane (5 mL) was degassed with a stream of argon for a couple of min. PdCl2(dppf) CH2Cl2 (53.5 mg, 0.07 mmol) was added and the mixture was heated at reflux under N2 for 4 h. The mixture was allowed to cool and was then filtered. The filter cake was washed with EtOAc. The filtrate was concentrated in vacuo. The residue was purified by flash chromatography (eluent: heptane/EtOAc gradient) affording the title compound (69 mg, 20% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.30 (s, 12 H), 7.88 (dd, 1 H), 7.90-7.94 (m, 1 H), 8.19 (dd, 1 H); MS (CI) m/z 264 [M+H]+.

reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 2.62 mmol, 665 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | 3-chloro-5-iodobenzonitrile | 1.31 mmol, 345 mg | ClC=1C=C(C#N)C=C(C1)I | C7H3ClIN
reactant | potassium acetate | 3.93 mmol, 386 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.07 mmol, 53.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 3-Chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile | 69 mg, 20% yield | ClC=1C=C(C#N)C=C(C1)B1OC(C(O1)(C)C)(C)C | C13H15BClNO2
